US07550467B2
To a solution of (2S,5R)-4-(3-chloro-propyl)-2,5-dimethyl-piperazine (11.6 g, 61 mmol) in CH2Cl2 (240 mL) at 0° C. was added Boc2O (14.9 g, 67 mmol, 1.1 eq) and the mixture was stirred at room temperature for 16 hours. The solvent was evaporated and the residue was chromatographed on silica gel by eluting with 30% EtOAc/hexane to give 12.8 g (72%) of (2S,5R)-4-(3-chloro-propyl)-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester as a light yellow oil. 1H NMR (300 MHz, CDCl3): δ 4.22 (m, 1H), 3.64 (m, 3H), 3.23 (dd, J=11.4, 3.9 Hz, 1H), 2.55 (m, 1H), 2.42 (m, 1H), 2.22 (d, J=11.4 Hz, 1H), 1.87 (t, J=6.3 Hz, 2H), 1.46 (s, 9H), 1.21 (d, J=6.9 Hz, 3H), 0.92 (d, J=6.6 Hz, 3H).

reactant | (2S,5R)-4-(3-chloro-propyl)-2,5-dimethyl-piperazine | 61 mmol, 11.6 g | ClCCCN1C[C@@H](NC[C@H]1C)C | C9H19ClN2
reactant | Boc2O | 67 mmol, 14.9 g, 1.1 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 240 mL | C(Cl)Cl | CH2Cl2
product | (2S,5R)-4-(3-chloro-propyl)-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 12.8 g, 72% | C(C)(C)(C)OC(=O)N1[C@H](CN([C@@H](C1)C)CCCCl)C | C14H27ClN2O2
